US08044208B2
d) Diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-[1-(5-cyclopropyl-[1,3,4]thiadiazol-2-ylmethyl)-1H-imidazol-4-yl]malonate
Together with 1.97 g (6.04 mmol) of cesium carbonate and 0.29 g (1.66 mmol) of 2-chloromethyl-5-cyclopropyl-1,3,4-thiadiazole, a solution of 0.60 g (1.51 mmol) of diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-(1H-imidazol-4-yl)malonate in 12 ml of DMF was heated at 75° C. for 2 h. The reaction mixture was concentrated under reduced pressure, and the residue was taken up in ethyl acetate and washed with water. The organic phase was dried over Na2SO4, filtered and concentrated. Chromatographic purification of the residue on silica gel (CH2Cl2:MeOH:water:acetic acid 95:5:0.5:0.5) gave 0.145 g (18%) of the title compound.

reactant | cesium carbonate | 6.04 mmol, 1.97 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloromethyl-5-cyclopropyl-1,3,4-thiadiazole | 1.66 mmol, 0.29 g | ClCC=1SC(=NN1)C1CC1 | C6H7ClN2S
reactant | diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-(1H-imidazol-4-yl)malonate | 1.51 mmol, 0.60 g | C(C)(C)(C)OC(=O)NCCCCC(C(=O)OCC)(C(=O)OCC)C=1N=CNC1 | C19H31N3O6
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | Diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-[1-(5-cyclopropyl-[1,3,4]thiadiazol-2-ylmethyl)-1H-imidazol-4-yl]malonate | 0.145 g, 18% | C(C)(C)(C)OC(=O)NCCCCC(C(=O)OCC)(C(=O)OCC)C=1N=CN(C1)CC=1SC(=NN1)C1CC1 | C25H37N5O6S
